US06495546B1
To N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (200 mg) was added 4N hydrogen chloride in ethyl acetate (6 ml) at room temperature, and the mixture was stirred at the same temperature for 1 hour. After evaporation in vacuo, the residue was dissolved into a mixture of saturated aqueous sodium hydrogencarbonate and ethyl acetate. After separation, the organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (silica gel, chloroform:methanol=5:1) and followed by treatment with 4N hydrogen chloride in ethyl acetate to give (2S)-1-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride (45 mg).

reactant | N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 200 mg | OCC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C32H49NO5Si
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-1-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride | 45 mg | Cl.OCC1=CC2=C(CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O)C=C1 | InChI=1S/C21H27NO3.ClH/c23-14-16-9-10-17-5-4-6-19(12-18(17)11-16)22-13-20(24)15-25-21-7-2-1-3-8-21;/h1-3,7-11,19-20,22-24H,4-6,12-15H2;1H/t19?,20-;/m0./s1
